US07939524B2
c) (1R,2S,7R,8S)-N-{3-[6-Hydroxy-3-(3-methyl-butyl)-4-oxo-3-aza-tricyclo[6.2.1.02,7]undec-5-en-5-yl]-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-7-yl}-methanesulfonamide
The crude (1S,2R,3S,4R)-3-[[2-(7-methanesulfonylamino-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-3-yl)-acetyl]-(3-methyl-butyl)-amino]-bicyclo[2.2.1]heptane-2-carboxylic acid ethyl ester was dissolved in ethanol (7 mL) and a 21 wt. % solution of sodium ethoxide in ethanol (1.15 mL, 3.25 mmol) was added into the above solution. The mixture was stirred at 60° C. for 4 h and cooled down to 25° C. The mixture was poured into 0.5 M aqueous hydrochloric acid solution (100 mL). The aqueous layer was extracted with ethyl acetate (2×100 mL). The organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo to afford the crude product, which was purified by flash column chromatography (Teledyne Isco RediSep column; 100% ethyl acetate) to afford the desired product, (1R,2S,7R,8S)-N-{3-[6-hydroxy-3-(3-methyl-butyl)-4-oxo-3-aza-tricyclo[6.2.1.02,7]undec-5-en-5-yl]-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-7-yl}-methanesulfonamide (0.19 g, 0.364 mmol, 56.1% over two steps), as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ: 0.89-0.93 (6H, m), 1.16-1.23 (2H, m), 1.28-1.32 (1H, m), 1.35-1.62 (7H, m), 1.99-1.99 (1H, m), 2.52-2.54 (1H, m), 2.63 (1H, bs), 3.06 (3H, s), 3.62-3.72 (2H, m), 7.50 (1H, dd, J1=8.9 Hz, J2=2.2 Hz), 7.57-7.59 (2H, m), 10.17 (1H, s). LC-MS (ESI) calcd for C23H30N4O6S2 522.16, found 523.6 [M+H+].

reactant | (1S,2R,3S,4R)-3-[[2-(7-methanesulfonylamino-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-3-yl)-acetyl]-(3-methyl-butyl)-amino]-bicyclo[2.2.1]heptane-2-carboxylic acid ethyl ester | C(C)OC(=O)[C@@H]1[C@H]2CC[C@@H]([C@@H]1N(CCC(C)C)C(CC1=NS(C3=C(N1)C=CC(=C3)NS(=O)(=O)C)(=O)=O)=O)C2 | C25H36N4O7S2
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | hydrochloric acid | 0.5 M, 100 mL | Cl | ClH
solvent | ethanol | 7 mL | C(C)O | C2H6O
solvent | ethanol | 3.25 mmol, 1.15 mL | C(C)O | C2H6O
product | (1R,2S,7R,8S)-N-{3-[6-hydroxy-3-(3-methyl-butyl)-4-oxo-3-aza-tricyclo[6.2.1.02,7]undec-5-en-5-yl]-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-7-yl}-methanesulfonamide | 0.364 mmol, 0.19 g, 56.1% | OC1=C(C(N([C@H]2[C@@H]3CC[C@H]([C@@H]12)C3)CCC(C)C)=O)C3=NS(C1=C(N3)C=CC(=C1)NS(=O)(=O)C)(=O)=O | C23H30N4O6S2
